US07897627B2
b) Step 2: 2,6,7-Trichloro-benzothiazole
To a suspension of 300 mg (1.270 mmol) 6,7-dichloro-benzothiazole-2-thiol in 1.4 mL (19.05 mmol) thionyl chloride was added dropwise 32.3 □L N,N-dimethylformamide dry at room temperature. The mixture was stirred at room temperature for 4 h. The solvent was removed in vacuo. The residue was purified with flash column chromatography on silica eluting with a gradient formed from n-heptane and ethyl acetate to provide 127 mg (41.9%) of the title compound as a yellow solid. MS(m/e): 239 (M+H+).

reactant | 6,7-dichloro-benzothiazole-2-thiol | 1.270 mmol, 300 mg | ClC1=C(C2=C(N=C(S2)S)C=C1)Cl | C7H3Cl2NS2
reactant | thionyl chloride | 19.05 mmol, 1.4 mL | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,6,7-Trichloro-benzothiazole | 127 mg, 41.9% | ClC=1SC2=C(N1)C=CC(=C2Cl)Cl | C7H2Cl3NS
